US08183246B2
(+/−)-4-[(2-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}propyl)(methyl)-amino]butanoic acid methyl ester
Put 25 mg (0.064 mmol) (+/−)-2-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-N-methylpropane-1-amine with 13 mg (0.128 mmol) triethylamine in 250 μl dichloromethane. Add 23.2 mg (0.128 mmol) 4-bromobutyric acid methyl ester and stir overnight at RT. Add the same amounts of triethylamine and 4-bromobutyric acid methyl ester again and stir for a further 24 h at RT. Then concentrate by evaporation and purify the residue by thick-layer chromatography on silica gel (solvent: dichloromethane/methanol 95:5). Extract the product-containing zone with dichloromethane/methanol 9:1. 22.4 mg of the target compound is obtained as raw product.

reactant | (+/−)-2-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-N-methylpropane-1-amine | 0.064 mmol, 25 mg | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)OC(CNC)C)C2=CC=CC=C2 | C23H23N3O3
reactant | triethylamine | 0.128 mmol, 13 mg | C(C)N(CC)CC | C6H15N
reactant | 4-bromobutyric acid methyl ester | 0.128 mmol, 23.2 mg | COC(CCCBr)=O | C5H9BrO2
solvent | dichloromethane | 250 μl | ClCCl | CH2Cl2
product | (+/−)-4-[(2-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}propyl)(methyl)-amino]butanoic acid methyl ester | 22.4 mg | COC(CCCN(C)CC(C)OC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2)=O | C28H31N3O5
